US05550257
A solution of 1.0 g of oxalyl chloride in 15 ml of methylene chloride is added dropwise to a 0° C. solution of 0.65 g of 3-cyclopentylpropionic acid in 15 ml of methylene chloride. The solution is allowed to warm to room temperature and is stirred for 6 hours. The solution is concentrated at reduced pressure, rediluted with 25 ml of methylene chloride and reconcentrated to give 3-cyclopentylpropionyl chloride.

reactant | oxalyl chloride | 1.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-cyclopentylpropionic acid | 0.65 g | C1(CCCC1)CCC(=O)O | C8H14O2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-cyclopentylpropionyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
